US07304161B2
To a 100 mL round bottom flask, containing 100 mg (0.24 mm) of 3,5-dimethyl-benzoic acid N-tert-butyl-N′-(3-formyl-5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-hydrazide, added 0.50 g of triethylamine, 70 mg (1 mm) of hydroxylamine hydrochloride and 25 mL of methanol. The reaction mixture was refluxed for 1 hour. The methanol was removed on a rotary evaporator and the residue was dissolved with chloroform and dilute HCl and transferred to a separatory funnel. The chloroform extract was dried and evaporated to dryness. The residue was chromatographed on silica and the product eluted with 40% ethyl acetate in hexane. Evaporation of solvent yielded 85 mg of 3,5-dimethyl-benzoic acid N-tert-butyl-N′-[3-(hydroxyimino-methyl)-5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carbonyl]-hydrazide. 1H NMR (300 MHz, CDCl3) δ (ppm): 7.7 (s, 1H), 7.4 (d, 1H), 7.05 (s, 2H), 6.95 (s, 1H), 6.55 (d, 1H), 6.15 (m, 1H), 4.8 (m, 1H), 4.0–4.4 (m, 4H), 2.248 (s, 6H), 1.915 (s, 3H), 1.574 (s, 9H); TLC: Rf=0.40 (1:1 ethyl acetate:hexane).

reactant | 3,5-dimethyl-benzoic acid N-tert-butyl-N′-(3-formyl-5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-hydrazide | 100 mg | C(C)(C)(C)N(NC(=O)C1=C(C2=C(OCC(O2)C=O)C=C1)C)C(C1=CC(=CC(=C1)C)C)=O | C24H28N2O5
reactant | triethylamine | 0.50 g | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 70 mg | Cl.NO
solvent | methanol | 25 mL | CO | CH4O
product | 3,5-dimethyl-benzoic acid N-tert-butyl-N′-[3-(hydroxyimino-methyl)-5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carbonyl]-hydrazide | 85 mg | C(C)(C)(C)N(NC(=O)C1=C(C2=C(OCC(O2)C=NO)C=C1)C)C(C1=CC(=CC(=C1)C)C)=O | C24H29N3O5
